US05157026
A mixture of 2,6-diamino-3-nitropyridine (878 mg, 5.7 mmol) and Pd-C (10%, 100 mg) in MeOH (100 mL) was stirred under 1 atm. H2 for 16 hours. The mixture (containing the air sensitive triamine) was filtered, evaporated, and to this flask was added polyphosphoric acid (15 mL) and butyric acid (1.05 mL, 11.5 mmol). This mixture was heated to 80° C. for 5 hours, cooled to room temperature, diluted with water and neutralized with concentrated NH4OH. Extractive workup (CH2Cl2) gave 345 mg of 5-(butyramido)-2-propylimidazo[4,5-b]pyridine.

reactant | 2,6-diamino-3-nitropyridine | 5.7 mmol, 878 mg | NC1=NC(=CC=C1[N+](=O)[O-])N | C5H6N4O2
reactant | butyric acid | 11.5 mmol, 1.05 mL | C(CCC)(=O)O | C4H8O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 100 mL | CO | CH4O
solvent | water | O | H2O
solvent | NH4OH | [NH4+].[OH-]
catalyst | Pd-C | 100 mg | [Pd] | Pd
product | 5-(butyramido)-2-propylimidazo[4,5-b]pyridine | 345 mg | C(CCC)(=O)NC1=CC=C2C(=N1)N=C(N2)CCC | C13H18N4O
